US04629493
Ethyl 2-[4-(2-quinoxalyloxy)phenoxy]propionate (Compound No. 10)
In 50 ml of acetonitrile, 2.1 g of ethyl 2-(4-hydroxyphenoxy)propionate and 1.66 g of potassium carbonate were added and the mixture was refluxed for 1 hour and then, 1.65 g of 2-chloroquinoxaline was added and the mixture was further refluxed for 30 hours. After cooling, the precipitated inorganic salt was separated by a filtration. Acetone was distilled off from the filtrate under a reduced pressure to obtain 3.5 g of the oily residue. The residue was purified by a silica gel column chromatography (developer solvent: chloroform) to obtain 2.6 g (yield 77%) of the object compound.

reactant | ethyl 2-(4-hydroxyphenoxy)propionate | 2.1 g | OC1=CC=C(OC(C(=O)OCC)C)C=C1 | C11H14O4
reactant | potassium carbonate | 1.66 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloroquinoxaline | 1.65 g | ClC1=NC2=CC=CC=C2N=C1 | C8H5ClN2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | Ethyl 2-[4-(2-quinoxalyloxy)phenoxy]propionate | 3.5 g | N1=C(C=NC2=CC=CC=C12)OC1=CC=C(OC(C(=O)OCC)C)C=C1 | C19H18N2O4
